US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{3,5-dimethyl-4-[3-oxo-3-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-propyl]-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A mixture of 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (100 mg, 0.28 mmol), 3,5-dimethyl-4-[3-oxo-3-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-propyl]-1H-pyrrole-2-carbaldehyde (1.7 eq.) and piperidine (1.5 eq.) in ethanol (2 mL) was stirred at rt for 96 hours. The reaction was concentrated and purified on a silica gel column to give the titled compound as a pale orange solid.

reactant | 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 0.28 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 3,5-dimethyl-4-[3-oxo-3-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-propyl]-1H-pyrrole-2-carbaldehyde | 1.7 eq. | CC1=C(NC(=C1CCC(N1[C@@H](CCC1)CN1CCCC1)=O)C)C=O | C19H29N3O2
reactant | piperidine | 1.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{3,5-dimethyl-4-[3-oxo-3-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-propyl]-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CCC(N1[C@@H](CCC1)CN1CCCC1)=O)C | C34H38Cl2N4O4S
